Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
CO[C:1](=[O:2])[c:3]1[cH:4][cH:5][cH:6][c:7](-[c:8]2[n:9][n:10]([CH:11]3[CH2:12][CH2:13][CH2:14][CH2:15][O:16]3)[c:17]3[cH:18][cH:19][c:20](-[c:21]4[n:22][cH:23][n:24]([C:25]([c:26]5[cH:31][cH:30][cH:29][cH:28][cH:27]5)([c:32]5[cH:33][cH:34][cH:35][cH:36][cH:37]5)[c:38]5[cH:43][cH:42][cH:41][cH:40][cH:39]5)[n:44]4)[cH:45][c:46]23)[cH:47]1.[CH3:48][C:49]([CH3:50])([CH3:51])[CH2:52][NH2:53]>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][cH:6][c:7](-[c:8]2[n:9][n:10]([CH:11]3[CH2:12][CH2:13][CH2:14][CH2:15][O:16]3)[c:17]3[cH:18][cH:19][c:20](-[c:21]4[n:22][cH:23][n:24]([C:25]([c:26]5[cH:27][cH:28][cH:29][cH:30][cH:31]5)([c:32]5[cH:33][cH:34][cH:35][cH:36][cH:37]5)[c:38]5[cH:39][cH:40][cH:41][cH:42][cH:43]5)[n:44]4)[cH:45][c:46]23)[cH:47]1)[NH:53][CH2:52][C:49]([CH3:48])([CH3:50])[CH3:51],C[O:101][C:1](=[O:2])[c:3]1[cH:4][cH:5][cH:6][c:7](-[c:8]2[n:9][n:10]([CH:11]3[CH2:12][CH2:13][CH2:14][CH2:15][O:16]3)[c:17]3[cH:18][cH:19][c:20](-[c:21]4[n:22][cH:23][n:24]([C:25]([c:26]5[cH:27][cH:28][cH:29][cH:30][cH:31]5)([c:32]5[cH:33][cH:34][cH:35][cH:36][cH:37]5)[c:38]5[cH:39][cH:40][cH:41][cH:42][cH:43]5)[n:44]4)[cH:45][c:46]23)[cH:47]1.[CH3:48][C:49]([CH3:50])([CH3:51])[CH2:52][NH2:53]>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][cH:6][c:7](-[c:8]2[n:9][n:10]([CH:11]3[CH2:12][CH2:13][CH2:14][CH2:15][O:16]3)[c:17]3[cH:18][cH:19][c:20](-[c:21]4[n:22][cH:23][n:24]([C:25]([c:26]5[cH:27][cH:28][cH:29][cH:30][cH:31]5)([c:32]5[cH:33][cH:34][cH:35][cH:36][cH:37]5)[c:38]5[cH:39][cH:40][cH:41][cH:42][cH:43]5)[n:44]4)[cH:45][c:46]23)[cH:47]1)[NH:53][CH2:52][C:49]([CH3:48])([CH3:50])[CH3:51],nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(53, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[CH:1][c:2]1[s:3][cH:4][c:5]([C:6]#[N:7])[cH:8]1.[NH2:9][OH:10]>>[CH:1]([c:2]1[s:3][cH:4][c:5]([C:6]#[N:7])[cH:8]1)=[N:9][OH:10],[O:101]=[CH:1][c:2]1[s:3][cH:4][c:5]([C:6]#[N:7])[cH:8]1.[NH2:9][OH:10].[H+:301]>>[CH:1]([c:2]1[s:3][cH:4][c:5]([C:6]#[N:7])[cH:8]1)=[N:9][OH:10],imine_formation,"[(9, 1), ([1, 101], 301), (101, 9.1), ([9.1, 9], 9), (9, [9, 1]), ([1, 101], 101), ([9.1, 9], 9)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[S:1]([CH3:2])(=[O:3])=[O:4].[CH3:5][CH2:6][O:7][C:8](=[O:9])[C:10]1=[CH:11][C@@H:12]([O:13][CH:14]([CH2:15][CH3:16])[CH2:17][CH3:18])[C@@H:19]([NH:20][C:21]([CH3:22])=[O:23])[C@H:24]([N:25]=[N+:26]=[N-:27])[C@@H:28]1[OH:29]>>[S:1]([CH3:2])(=[O:3])(=[O:4])[O:29][C@@H:28]1[C:10]([C:8]([O:7][CH2:6][CH3:5])=[O:9])=[CH:11][C@@H:12]([O:13][CH:14]([CH2:15][CH3:16])[CH2:17][CH3:18])[C@@H:19]([NH:20][C:21]([CH3:22])=[O:23])[C@@H:24]1[N:25]=[N+:26]=[N-:27],[CH3:5][CH2:6][O:7][C:8](=[O:9])[C:10]1=[CH:11][C@@H:12]([O:13][CH:14]([CH2:15][CH3:16])[CH2:17][CH3:18])[C@@H:19]([NH:20][C:21]([CH3:22])=[O:23])[C@H:24]([N:25]=[N+:26]=[N-:27])[C@@H:28]1[OH:29].[Cl:101][S:1]([CH3:2])(=[O:3])=[O:4].[H-:301].[Na+]>>[S:1]([CH3:2])(=[O:3])(=[O:4])[O:29][C@@H:28]1[C:10]([C:8]([O:7][CH2:6][CH3:5])=[O:9])=[CH:11][C@@H:12]([O:13][CH:14]([CH2:15][CH3:16])[CH2:17][CH3:18])[C@@H:19]([NH:20][C:21]([CH3:22])=[O:23])[C@@H:24]1[N:25]=[N+:26]=[N-:27],alcohol_attack_to_carbonyl_or_sulfonyl,"[(301, 29.1), ([29.1, 29], 29), (29, 1), ([1, 3], 3), (3, [3, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1]([CH3:2])=[O:3].[NH2:4][c:5]1[c:6]([Cl:7])[cH:8][n:9][nH:10][c:11]1=[O:12]>>[C:1]([CH3:2])(=[O:3])[NH:4][c:5]1[c:6]([Cl:7])[cH:8][n:9][nH:10][c:11]1=[O:12],[NH2:4][c:5]1[c:6]([Cl:7])[cH:8][n:9][nH:10][c:11]1=[O:12].[Cl:101][C:1]([CH3:2])=[O:3]>>[C:1]([CH3:2])(=[O:3])[NH:4][c:5]1[c:6]([Cl:7])[cH:8][n:9][nH:10][c:11]1=[O:12],nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(4, 1), ([1, 3], 3), (3, [3, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
